US07037909B2
To a solution of chloral hydrate (910 mg, 5.5 mmol) in 12 mL of water were added, in order: 13 g of anhydrous Na2SO4; a solution of 2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-pheylamine hydrogen chloride (1.61 g, 5 mmol) in water (3 mL); and finally, a solution of hydroxylamine hydrochloride (1.12 g, 16 mmol) in 5 mL of water. The mixture was heated in an oil bath (130° C.) with stirring for 15 min, then cooled down to room temperature, diluted with water, neutralized to pH 7 with concentrate aq. NaHCO3, and extracted with EtOAc. The combined organic layer was was washed with water, dried (Na2SO4) and concentrated under reduced pressure to give N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-2-hydroxyimino-acetamide as yellow solid (1.45 g, 91%).

reactant | chloral hydrate | 5.5 mmol, 910 mg | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | Na2SO4 | 13 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-pheylamine hydrogen chloride | 5 mmol, 1.61 g | Cl.CC1=C(C=C(C(=C1)OCCN1CCOCC1)C)N
reactant | hydroxylamine hydrochloride | 16 mmol, 1.12 g | Cl.NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 12 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | N-[2,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)-phenyl]-2-hydroxyimino-acetamide | 1.45 g, 91% | CC1=C(C=C(C(=C1)OCCN1CCOCC1)C)NC(C=NO)=O | C16H23N3O4
